US07723356B2
Hi) 2-Bromo-N-pyrazin-2-yl-acetamide
To a cooled (0° C.) solution of 2-aminopyrazine (4.98 g, 52 mmol) in dichloromethane (50 ml) and dimethylformamide (20 ml) is added dropwise a solution of bromoacetic anhydride (15 g, 57 mmol) in dichloromethane. The reaction mixture is stirred for 3 hours at 0° C. and then purification by flash column chromatography on silica (eluent: 1% ammonia solution/5% methanol/94% dichloromethane) affords the titled compound as a light brown solid.

reactant | 2-aminopyrazine | 52 mmol, 4.98 g | NC1=NC=CN=C1 | C4H5N3
reactant | bromoacetic anhydride | 57 mmol, 15 g | BrCC(=O)OC(CBr)=O | C4H4Br2O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Bromo-N-pyrazin-2-yl-acetamide | BrCC(=O)NC1=NC=CN=C1 | C6H6BrN3O
